datasets/10k__Tet_Int.csv
SMILES Labelled
"[H][S+:10](C([H])C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([O:21]C)[O][H].[Cl-]>>[Cl-].[H][S:10]C([H])C(C)C(C8=CC=CC=C8)[O][C:20]([O][H])=[O+:21]C 21=20;20,10=10"
"[H][NH+:21]=[C:20]2[O][CH]([H])[CH]([H])C(C8=CC=CC=C8)[NH]2.CC[NH:10][H].[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]1([NH:21][H])[O][CH]([H])C([H])[CH](C8=CC=CC=C8)[NH]1 10=20;20,21=21"
"[H][NH:10][H].[H][NH+:21]=[C:20]([O]C)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]([NH:21][H])([O]C)[NH]C7=CC=CC=C7 10=20;20,21=21"
"[H][O+:10](C(C)C([H])C(C)[NH]1)[C:20]1([NH:21][H])[O][H].[Cl-]>>[Cl-].[H][O:10]C(C)C([H])C(C)[NH][C:20]([O][H])=[NH+:21][H] 21=20;20,10=10"
"[H][O:10]C(C)C([H])C(CC)[O][C:20]([O]C7=CC=CC=C7)=[O+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(C)C([H])C(CC)[O]1)[C:20]1([O:21]C)[O]C7=CC=CC=C7 10=20;20,21=21"
"[OH:10]C(C)/C([H])=C([C:20](OCC)=[OH+:21])/O>>[OH:21][C:20]1(OCC)[OH+:10]C(C)C([H])=C1O 10=20;20,21=21"
"CC[S:10][H].[H][O+:21]=[C:20]([S]C8=CC=CC=C8)[O][H].[Cl-]>>[Cl-].CC[S+:10]([H])[C:20]([O:21][H])([S]C8=CC=CC=C8)[O][H] 10=20;20,21=21"
"[H][S:10]C(C9=CC=CC=C9)C([H])[S][C:20]([S]CC)=[O+:21][Si](C)(C)(C).[Cl-]>>[Cl-].[H][S+:10](C(C9=CC=CC=C9)C([H])[S]1)[C:20]1([O:21][Si](C)(C)(C))[S]CC 10=20;20,21=21"
"[H][S+:10]([H])[C:20]([O:21][H])([S]C)[O]CC.[Cl-]>>[Cl-].[H][S:10][H].[H][O+:21]=[C:20]([S]C)[O]CC 21=20;20,10=10"
"C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]C)[O][CH](CC)C(C)[CH](CC)[NH]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[O][CH](CC)[CH](C)C(CC)[NH]2.C9=CC=CC=C9[NH:10][H] 21=20;20,10=10"
"[H][O:10]C(C)C(C)C(CC)[NH][C:20]([O]CC)=[NH+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(C)C(C)C(CC)[NH]1)[C:20]1([NH:21]C)[O]CC 10=20;20,21=21"
"[H][O+:10](C([H])C([H])[O]1)[C:20]1([O:21]C)[O]CC.[Cl-]>>[Cl-].[H][O:10]C([H])C([H])[O][C:20]([O]CC)=[O+:21]C 21=20;20,10=10"
"[H][S:10]C([H])C(C)[S][C:20]([O]CC)=[O+:21]C.[Cl-]>>[Cl-].[H][S+:10](C([H])C(C)[S]1)[C:20]1([O:21]C)[O]CC 10=20;20,21=21"
"CC[NH+:21]=[C:20]2[O][CH]([H])[CH]([H])C([H])[NH]2.C[NH:10][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]1([NH:21]CC)[O][CH]([H])C([H])[CH]([H])[NH]1 10=20;20,21=21"
"C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]C)[O]C([H])C(CC)[NH]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[O]C([H])C(CC)[NH]2.C9=CC=CC=C9[NH:10][H] 21=20;20,10=10"
"[H][S+:10](C(CC)C(CC)[O]1)[C:20]1([O:21]C)[S]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][S:10]C(CC)C(CC)[O][C:20]([S]C7=CC=CC=C7)=[O+:21]C 21=20;20,10=10"
"[H][O+:21]=[C:20]2[O][CH]([H])[CH]([H])C([H])[O]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([O:21][H])[O][CH]([H])C([H])[CH]([H])[O]1 10=20;20,21=21"
"[OH:10]C(C)C(C)/C([H])=C(C)\[C:20](OCC)=[OH+:21]>>[OH:21][C:20]1(OCC)C(C)=C([H])C(C)C(C)[OH+:10]1 10=20;20,21=21"
"[O-:21][C:20]1(C)C([H])C([H])C(C)C([H])[NH+:10]1([H])>>[NH:10]([H])C([H])C(C)C([H])C([H])[C:20](C)=[O:21] 21=20;20,10=10"
"[OH:10]C([H])C([H])N([C:20](OCC)=[OH+:21])[H]>>[OH:21][C:20]1(OCC)[OH+:10]C([H])C([H])N1[H] 10=20;20,21=21"
"[H][NH+:21]=[C:20]2[O][CH](CC)[CH]([H])C([H])[NH]2.C9=CC=CC=C9[NH:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21][H])[O][CH](CC)C([H])[CH]([H])[NH]1 10=20;20,21=21"
"CC[O:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([O]CC)[O][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]([O:21][Si](C)(C)(C))([O]CC)[O][H] 10=20;20,21=21"
"[H]N([C:20]1(OC(C(C([O:21]1)C)CC)[H])[O-:10])CCCCCC>>[H]N([C:20](=[O:10])OC(C(C([O-:21])C)CC)[H])CCCCCC 10=20;20,21=21"
"[O:10]([Na])C(C)/C(O)=C([C:20]([H])=[O:21])/O>>[O-:21][C:20]1([H])[O+:10]([Na])C(C)C(O)=C1O 10=20;20,21=21"
"[NH:10]([H])C([H])C(C)/C(C)=C(C)\[C:20](OC)=[O:21]>>[O-:21][C:20]1(OC)C(C)=C(C)C(C)C([H])[NH+:10]1([H]) 10=20;20,21=21"
"CC[S+:10]([H])[C:20]([O:21][H])([O]C)[O]CC.[Cl-]>>[Cl-].CC[S:10][H].[H][O+:21]=[C:20]([O]C)[O]CC 21=20;20,10=10"
"C9=CC=CC=C9[S+:10]([H])[C:20]1([O:21][H])[S]C(C)C(C)[O]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[S]C(C)C(C)[O]2.C9=CC=CC=C9[S:10][H] 21=20;20,10=10"
"CCC1C(C(O[C:20](N1CC)([O-:10])[O:21]C)[H])[H]>>CCC1C(C(O[C:20](=[O:10])N1CC)[H])[H].[O-:21]C 10=20;20,21=21"
"[O-:21][C:20]1(OC)C(O)C([H])C([H])C([H])[O+:10]1([Na])>>[O:10]([Na])C([H])C([H])C([H])C(O)[C:20](OC)=[O:21] 21=20;20,10=10"
"C[NH+:10]([H])[C:20]([NH:21]C6=CC=CC=C6)([O][H])[NH]CC.[Cl-]>>[Cl-].C[NH:10][H].C6=CC=CC=C6[NH+:21]=[C:20]([O][H])[NH]CC 21=20;20,10=10"
"[H][O+:10](C(C)C([H])C(CC)[S]1)[C:20]1([O:21][H])[O][H].[Cl-]>>[Cl-].[H][O:10]C(C)C([H])C(CC)[S][C:20]([O][H])=[O+:21][H] 21=20;20,10=10"
"CN([C:20]1(OC(C(C([O:21]1)CC)CC)C)[O-:10])C>>CN([C:20](=[O:10])OC(C(C([O-:21])CC)CC)C)C 10=20;20,21=21"
"C1=CC=CC=C1[O+:10]([Li])[C:21]([O-:20])(O[H])OCC>>[O:20]=[C:21](O[H])OCC.C1=CC=CC=C1[O:10][Li] 20=21;21,10=10"
"[H][NH+:10](C([H])C(C)C(C)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]CC.[Cl-]>>[Cl-].[H][NH:10]C([H])C(C)C(C)[O][C:20]([O]CC)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]C)[NH]C(C7=CC=CC=C7)C([H])[NH]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[NH]C(C7=CC=CC=C7)C([H])[NH]2.C9=CC=CC=C9[NH:10][H] 21=20;20,10=10"
"[OH:21][C:20]1(OC)C(C)C(C)=C(C)C(C)[OH+:10]1>>[OH:10]C(C)/C(C)=C(C)\C(C)[C:20](OC)=[OH+:21] 21=20;20,10=10"
